US04369325
1.5 ml (1.8 g, 0.022 moles) of ethylene chlorohydrine and 0.35 g (0.002 moles) of potassium iodide are added to a solution of 6.14 g (0.02 moles) of 1,3-bis(2',6'-dimethylphenyl)-2-imino-4-methyl-imidazolidine, obtained as described in Example 3, in 60 ml of dry dimethylformamide. The resulting mixture is stirred at 100° to 105° C. for 6 hours, thereafter it is poured onto 300 ml of icy water. The separated product is filtered off, washed with water and ethyl acetate, and dried. 1.6 g of 1,3-bis(2',6'-dimethylphenyl)-2-(β-hydroxyethyl)-imino-4-methyl-imidazolidine hydrochloride are obtained; m.p.: 288°-291° C. (after recrystallization from a 6:4 mixture of methanol and water).

reactant | ethylene chlorohydrine | 0.022 moles, 1.5 ml, 1.8 g | C(CO)Cl | C2H5ClO
reactant | potassium iodide | 0.002 moles, 0.35 g | [I-].[K+]
reactant | 1,3-bis(2',6'-dimethylphenyl)-2-imino-4-methyl-imidazolidine | 0.02 moles, 6.14 g | CC1=C(C(=CC=C1)C)N1C(N(C(C1)C)C1=C(C=CC=C1C)C)=N | C20H25N3
reactant | water | 300 ml | O | H2O
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1,3-bis(2',6'-dimethylphenyl)-2-(β-hydroxyethyl)-imino-4-methyl-imidazolidine hydrochloride | 1.6 g, yield of 34.3% | Cl.CC1=C(C(=CC=C1)C)N1C(N(C(C1=N)C)C1=C(C=CC=C1C)C)CCO | InChI=1S/C22H29N3O.ClH/c1-14-8-6-9-15(2)20(14)24-18(5)22(23)25(19(24)12-13-26)21-16(3)10-7-11-17(21)4;/h6-11,18-19,23,26H,12-13H2,1-5H3;1H
